US04500526
A. 2-Dimethylaminomethyliminothiazolo[4,5-c]pyridine
A stirred mixture of 2-aminothiazolo[4,5-c]pyridine [prepared according to the procedure of H. W. Altland and G. A. Molander, J. Heterocyclic Chem., 14, 129 (1977)] (0.5 g, 3.3 mmole) and N,N-dimethylformamide dimethyl acetal (5 ml) was stirred at an oil bath temperature of 80° C. for two hours under an atmosphere of argon. The solution was concentrated to dryness to leave the crystalline product. The solid was triturated with cold petroleum ether and dried to afford 0.55 g (80.9%) of the title compound, mp. 125°-127° C.

reactant | 2-aminothiazolo[4,5-c]pyridine | NC=1SC2=C(C=NC=C2)N1 | C6H5N3S
reactant | N,N-dimethylformamide dimethyl acetal | 5 ml | COC(N(C)C)OC | C5H13NO2
product | 2-Dimethylaminomethyliminothiazolo[4,5-c]pyridine | 0.55 g, 80.9% | CN(C)CN=C1SC2=C(C=NC=C2)N1 | C9H12N4S
